US09340555B2
To a stirred solution of 7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxylic acid (120 mg, 0.30 mmol) in anhydrous DMF (10 ml) were added 3-bromo-1-propanol (63 mg, 0.45 mmol) and potassium carbonate (83 mg, 0.60 mmol). The mixture was heated at 50° C. for 5 hours and poured into 100 ml of water. The precipitates were filtered, washed with water and dried to give the crude, which was purified by silica gel chromatography eluting with 3˜5% of methanol in chloroform to give 3-hydroxypropyl 7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxylate as white solid. Yield: 25 mg, 18%.

reactant | 7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxylic acid | 0.30 mmol, 120 mg | CC1=C(OC=C1)C(=O)NC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1 | C20H14N2O5S
reactant | 3-bromo-1-propanol | 0.45 mmol, 63 mg | BrCCCO | C3H7BrO
reactant | potassium carbonate | 0.60 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-hydroxypropyl 7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxylate | CC1=C(OC=C1)C(=O)NC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OCCCO)C=CC1 | C23H20N2O6S
